US09353075B2
Step 3. Preparation of (1-benzoyl-4-piperidyl)-N-[(2S,3R)-2-methyl-4-oxo-oxetan-3-yl]-carbamate
In a four necked round bottom flask, under Argon atmosphere, Et3N (1.2 mL, 8.56 mmol) was added to a solution of (2R,3S)-3-hydroxy-2-[({[1-(phenylcarbonyl)piperidin-4-yl]oxy}carbonyl)amino]-butanoic acid (1.0 g, 2.85 mmol) in dry CH2Cl2 (40 mL). After cooling at 0° C., HBTU (1.62 g, 4.28 mmol) was added and the mixture stirred 3 h at 0° C., then 16 h at rt. The solvent was removed under vacuum, and the resulting crude mixture was purified by column chromatography using a Teledyne ISCO apparatus, eluting with CH2Cl2/AcOEt (50:50). The resulting yellow solid was further purified trough reverse-phase automatic column chromatography, eluting with H2O/CH3CN (70:30) to afford the title compound (0.083 g, 9%) as white solid. Rf=0.47 (SiO2, CH2Cl2/AcOEt 1:1); Rf=0.39 (C18, 7:3 H2O/CH3CN). MS (ESI) m/z: 333 [M−H]+. FTIR (cm−1): 3414, 3222, 3050, 2965, 2929, 2871, 1825, 1720, 1612, 1550, 1449, 1262, 1232, 1119, 1068, 1031, 837, 711. 1H-NMR (CDCl3): δ 1.47 (d, 3H); 1.58-2.04 (m, 4H); 3.30-4.08 (m, 4H); 4.86-4.90 (m, 1H); 4.93-4.97 (m, 1H); 5.45 (t, 1H); 5.56 (br s, 1H); 7.39-7.44 (m, 5H).

reactant | Et3N | 8.56 mmol, 1.2 mL | CCN(CC)CC | C6H15N
reactant | (2R,3S)-3-hydroxy-2-[({[1-(phenylcarbonyl)piperidin-4-yl]oxy}carbonyl)amino]-butanoic acid | 2.85 mmol, 1.0 g | O[C@H]([C@H](C(=O)O)NC(=O)OC1CCN(CC1)C(=O)C1=CC=CC=C1)C | C17H22N2O6
reactant | HBTU | 4.28 mmol, 1.62 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (1-benzoyl-4-piperidyl)-N-[(2S,3R)-2-methyl-4-oxo-oxetan-3-yl]-carbamate | 0.083 g, 9% | C(C1=CC=CC=C1)(=O)N1CCC(CC1)OC(N[C@@H]1[C@@H](OC1=O)C)=O | C17H20N2O5
